US05187189
N-methyl-S-(3-diethylaminopropyl)-S-(4-nitrophenyl)sulfoximine
A mixture of S-(3-diethylaminopropyl)-S-(4-nitrophenyl)sulfoximine (0.03 mole), 17 ml of 37% formaldehyde, and 22.6 ml of 98% formic acid is heated at reflux temperature for 48 hr. Water is added to the reaction mixture which is then made slightly basic by addition of 50% sodium hydroxide solution. The mixture is extracted with chloroform and the extract is dried and concentrated to obtain the title compound.

reactant | S-(3-diethylaminopropyl)-S-(4-nitrophenyl)sulfoximine | 0.03 mole | C(C)N(CCCS(=O)(=N)C1=CC=C(C=C1)[N+](=O)[O-])CC | C13H21N3O3S
reactant | formaldehyde | 17 ml | C=O | CH2O
reactant | formic acid | 22.6 ml | C(=O)O | CH2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Water | O | H2O
product | N-methyl-S-(3-diethylaminopropyl)-S-(4-nitrophenyl)sulfoximine | CN=S(=O)(C1=CC=C(C=C1)[N+](=O)[O-])CCCN(CC)CC | C14H23N3O3S
